* C:\Users\kenny\Downloads\LTC4416_Custom_Ken.asc
V1 IN 0 PWL(0 16.8 1 0 2 0 3 12.8)
V2 N004 0 13.8
Rload N002 0 .56 pwr=100
XU1 NC_01 IN 0 0 NC_02 N003 N004 N002 IN N001 LTC4416
M1 N004 N003 N002 N002 Si7137DP
M2 IN N001 N002 N002 Si7137DP
M3 IN N001 N002 N002 Si7137DP
M4 IN N001 N002 N002 Si7137DP
M5 IN N001 N002 N002 Si7137DP
M6 N004 N003 N002 N002 Si7137DP
M7 N004 N003 N002 N002 Si7137DP
M8 N004 N003 N002 N002 Si7137DP
C1 N002 0 0
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\kenny\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 5 0 startup
.lib LTC4416.sub
.backanno
.end
